US06281227B1
D. 2-(3-(S)-tert-Butoxycarbonylamino-2-oxopyrrolidin-1-ylmethyl)-pyrrolo[3,2-b]pyridine-1-carboxylic acid ethyl ester
A mixture of (2-iodo-pyridin-3-yl)-carbamic acid ethyl ester (0.6 g, 2.05 mmol), (2-oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester (0.49 g, 2.05 mmol), Pd(PPh3)2Cl2 (72 mg), copper iodide (12 mg) and triethylamine (1.1 mL) in 4 mL of acetonitrile is heated in a sealed tube at 100° C. for 18 hours. After cooling, the reaction mixture is diluted with MeOH and filtered through a Celite pad. The filtrate is concentrated in vacuo. The residue is diluted with EtOAc and washed with water (4×). The combined aqueous layers are extracted with EtOAc (2×). The combined organic layers are washed with water, then dried over MgSO4, filtered and concentrated to yield the crude intermediate coupled acetylene. IS MS, [M+H]+=403. The crude acetylene intermediate is dissolved in 16 mL of DMF and treated with 1,8-diazabicyclo[5.4.0]undec-7ene (DBU) (0.58 mL, 4.1 mmol). The mixture is heated at 60° C. for 2 hours. After cooling, the resulting mixture is diluted with water and EtOAc and the layers are separated. The organic layer is washed with water and then dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with 90% EtOAc/CH2Cl2 to yield the title compound (0.07 g, 0.22 mmol) as a beige solid.

reactant | (2-iodo-pyridin-3-yl)-carbamic acid ethyl ester | 2.05 mmol, 0.6 g | C(C)OC(NC=1C(=NC=CC1)I)=O | C8H9IN2O2
reactant | (2-oxo-1-prop-2-ynyl-pyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester | 2.05 mmol, 0.49 g | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC#C)=O)=O | C12H18N2O3
reactant | acetylene | C#C | C2H2
reactant | 1,8-diazabicyclo[5.4.0]undec-7ene | 4.1 mmol, 0.58 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | MeOH | CO | CH4O
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 72 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 12 mg | [Cu](I)I
solvent | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
product | 2-(3-(S)-tert-Butoxycarbonylamino-2-oxopyrrolidin-1-ylmethyl)-pyrrolo[3,2-b]pyridine-1-carboxylic acid ethyl ester | 0.22 mmol, 0.07 g | C(C)OC(=O)N1C(=CC2=NC=CC=C21)CN2C([C@H](CC2)NC(=O)OC(C)(C)C)=O | C20H26N4O5
